US08071592B2
7-Bromo-1-(2-propen-1-yl)pyrido[2,3-b]pyrazin-2(1H)-one (278 mg, 1.045 mmol) was dissolved in 1,4-dioxane (10 ml) and water (10 ml). Sodium periodate (559 mg, 2.613 mmol) was added, followed by osmium tetroxide (0.22 ml of 4% aqueous solution). The mixture stirred at rt for 1 h, water 40 ml was added the mixture was stirred for a further 1 h. The reaction was concentrated to about 50 ml and extracted with 20% MeOH/DCM (3×100 ml). The organic extracts were combined, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give (7-bromo-2-oxopyrido[2,3-b]pyrazin-1(2H)-yl)acetaldehyde (existing mostly as the hydrate) as an impure brown oil (423 mg, 107%).

reactant | 7-Bromo-1-(2-propen-1-yl)pyrido[2,3-b]pyrazin-2(1H)-one | 1.045 mmol, 278 mg | BrC1=CC2=C(N=CC(N2CC=C)=O)N=C1 | C10H8BrN3O
reactant | Sodium periodate | 2.613 mmol, 559 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
catalyst | osmium tetroxide | 0.22 ml | [Os](=O)(=O)(=O)=O
solvent | water | 40 ml | O | H2O
product | (7-bromo-2-oxopyrido[2,3-b]pyrazin-1(2H)-yl)acetaldehyde | BrC1=CC2=C(N=CC(N2CC=O)=O)N=C1 | C9H6BrN3O2
